US06759554B2
N-(4-Methoxyphenyl)-2-azetidinone
An oven-dried resealable Schlenk tube was charged with CuI (6.0 mg, 0.0315 mmol, 1.0 mol %), 2-azetidinone (300 mg, 4.22 mmol), K2CO3 (850 mg, 6.15 mmol), evacuated and backfilled with argon. trans-1,2-Cyclohexanediamine (40 μL, 0.333 mmol, 11 mol %), 4-bromoanisole (0.38 mL, 3.04 mmol) and dioxane (0.50 mL) were added under argon. The Schlenk tube was sealed and the reaction mixture was stirred magnetically at 110° C. for 23 h. The resulting suspension was cooled to room temperature and filtered through a 0.5×1 cm pad of silica gel eluting with 10 mL of ethyl acetate. The filtrate was concentrated and the residue was purified by flash chromatography on silica gel (2×20 cm; hexane-ethyl acetate 1:1; 20 mL fractions). Fractions 10-22 provided 320 mg (59% yield) of the product as white crystals. 1H NMR (400 MHz, CDCl3): δ 7.35−7.29 (m, 2H), 6.91−6.86 (m, 2H), 3.81 (s, 3H), 3.60 (t, J=4.4 Hz, 2H), 3.11 (t, J=4.4 Hz, 2H).

reactant | 2-azetidinone | 4.22 mmol, 300 mg | N1C(CC1)=O | C3H5NO
reactant | K2CO3 | 6.15 mmol, 850 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | trans-1,2-Cyclohexanediamine | 0.333 mmol, 40 μL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | 4-bromoanisole | 3.04 mmol, 0.38 mL | BrC1=CC=C(C=C1)OC | C7H7BrO
catalyst | CuI | 0.0315 mmol, 6.0 mg | [Cu]I
solvent | dioxane | 0.50 mL | O1CCOCC1 | C4H8O2
product | N-(4-Methoxyphenyl)-2-azetidinone | 320 mg, 59% yield | COC1=CC=C(C=C1)N1C(CC1)=O | C10H11NO2
